US07317027B2
(v) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide
To a suspension of 50 mg 1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid, 36 mg 1-isopropyl-piperidin-4-ylamine hydrochloride and 35 mg bis(2-oxo-3-oxazolidinyl)phosphinic chloride in 1 mL dichloromethane, 77 μl triethylamine were added at room temperature and the mixture was stirred for 16 hours. After removing of the solvent under reduced pressure, the residue was purified by preparative HPLC (C18 reverse phase column, elution with a water/acetonitrile gradient with 0.1% trifluoroacetic acid). The fractions containing the product were evaporated and lyophilized to yield a white residue which was partitioned between 5 mL aqueous 0.1 N sodium hydroxide solution and 5 mL ethyl acetate. The organic layer was washed with additional water and then dried over sodium sulphate. After filtration and removal of the solvent under reduced pressure, a white solid was obtained.

reactant | 1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid | 50 mg | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=CC2=NC=CC=C21)C(=O)O | C16H10ClN3O3S
reactant | 1-isopropyl-piperidin-4-ylamine hydrochloride | 36 mg | Cl.C(C)(C)N1CCC(CC1)N
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 35 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | triethylamine | 77 μl | C(C)N(CC)CC | C6H15N
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | C(C)(C)N1CCC(CC1)NC(=O)C1=CC2=NC=CC=C2N1CC1=NOC(=C1)C=1SC(=CC1)Cl | C24H26ClN5O2S
